US08748624B2
STEP A: ethyl 3-(5-(2-formyl-5-(prop-1-en-2-yl)phenyl)picolinamido)propanoate
Ethyl 3-(5-(5-chloro-2-formylphenyl)picolinamido)propanoate (180 mg, 0.50 mmol), 4,4,5,5-tetramethyl-2-(prop-1-en-2-yl)-1,3,2-dioxaborolane (126 mg, 0.75 mmol), Pd(OAc)2 (11 mg, 0.05 mmol), S-PHOS (41 mg, 0.10) K3PO3 (318 mg, 1.50 mmol) were dissolved in toluene (2 mL) and the resulting mixture was heated to 90° C. After 16 h the resulting mixture was cooled to room temperature, diluted with EtOAc, washed with water and brine, dried (Na2SO4), concentrated and purified via column chromatography to yield the title compound.

reactant | Ethyl 3-(5-(5-chloro-2-formylphenyl)picolinamido)propanoate | 0.50 mmol, 180 mg | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C=O | C18H17ClN2O4
reactant | 4,4,5,5-tetramethyl-2-(prop-1-en-2-yl)-1,3,2-dioxaborolane | 0.75 mmol, 126 mg | CC1(OB(OC1(C)C)C(=C)C)C | C9H17BO2
reactant | S-PHOS | 41 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 0.05 mmol, 11 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | ethyl 3-(5-(2-formyl-5-(prop-1-en-2-yl)phenyl)picolinamido)propanoate | C(=O)C1=C(C=C(C=C1)C(=C)C)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C21H22N2O4
